US06320050B1
A solution of {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester (prepared in Example 1(B)(c), 198.1 mg, 0.44 mmol) in absolute ethanol (2.2 mL) was treated with a 1 N aqueous sodium hydroxide solution (910 μL, 0.91 mmol). The reaction mixture was heated under reflux for 2 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove absolute ethanol. The resulting residue was acidified to pH=2 with a 10% aqueous hydrochloric acid solution and extracted with ethyl acetate (1×150 mL). The organic layer was washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting white residue was washed well with cold water and dried to afford {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid (150 mg, 81%) as a white solid: mp 100-102° C.; FAB-HRMS m/e calcd for C19H20Cl2N2O3S (M+H)+ 427.0650, found 427.0633.

reactant | {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester | 0.44 mmol, 198.1 mg | C(C)OC(CC=1N=C(SC1)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C21H24Cl2N2O3S
reactant | sodium hydroxide | 0.91 mmol, 1 N, 910 μL | [OH-].[Na+]
solvent | ethanol | 2.2 mL | C(C)O | C2H6O
product | {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid | 150 mg, 81% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C19H20Cl2N2O3S
